US07504408B2
1-{3-[(4-{[5-Chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one
This was prepared by the method described in example 4 using 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one (200 mg, 0.55 mmol), 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (145 mg, 0.60 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 1.15 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using ethyl acetate as eluent. There was thus obtained the title compound (237 mg, 76%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 2.05 (quintet, 2H), 2.20 (s, 3H), 2.58 (t, 2H), 2.92 (s, 2H), 3.33 (t, 2H), 3.36 (s, 3H), 3.48 (t, 2H), 3.94 (s, 3H), 4.13 (t, 2H), 4.37 (s, 2H), 6.15 (s, 2H), 7.15 (s, 2H), 7.82 (s, 1H), 8.34 (s, 1H), 9.51 (s, 1H); Mass Spectrum: M+H+ 568/570.

reactant | 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 0.55 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C17H21ClN4O3
reactant | 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.60 mmol, 145 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.15 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-{3-[(4-{[5-Chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 237 mg, 76% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C28H30ClN5O6
